US07423030B2
41.3. 1-Chloro-7-methoxy-4-phenoxymethylphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 7-methoxy-4-phenoxymethyl-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 7-methoxy-4-phenoxymethyl-2H-phthalazin-1-one | COC1=CC=C2C(=NNC(C2=C1)=O)COC1=CC=CC=C1 | C16H14N2O3
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-methoxy-4-phenoxymethylphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)COC1=CC=CC=C1 | C16H13ClN2O2
